US04255436
8.3 g. (0.12 mol) of hydroxylamine hydrochloride were dissolved in 50 ml. of water and treated with 10.1 g. (0.12 mol) of sodium hydrogen carbonate. This solution (pH 6-7) was added with stirring at room temperature to a solution of 14.3 g. (0.1 mol) of 3-methyl-3-thiocyanato-2-butanone in 100 ml. of ethanol. The temperature of the mixture rose rapidly to 37° C. The mixture was then stirred for 1 hour, 120 ml. of the solvent were then distilled off at 50° C. in vacuo. The residue was extracted three times with 100 ml. of ether each time. The organic phase was washed with a small amount of water, dried over sodium sulfate and concentrated until crystallization began. After cooling, the crystal sludge was treated with 10 ml. of hexane. The crystals were filtered off under suction, washed with ether/hexane (2:1) and dried to yield 2-oxo-4,5,5-trimethyl-3-thiazoline-oxime, m.p. 151°-153° C.

reactant | hydroxylamine hydrochloride | 0.12 mol | Cl.NO
reactant | water | O | H2O
reactant | sodium hydrogen carbonate | 0.12 mol | C(O)([O-])=O.[Na+]
reactant | 3-methyl-3-thiocyanato-2-butanone | 0.1 mol | CC(C(C)=O)(C)SC#N | C6H9NOS
solvent | ethanol | C(C)O | C2H6O
product | 2-oxo-4,5,5-trimethyl-3-thiazoline-oxime | N(O)=C1SC(C(=N1)C)(C)C | C6H10N2OS
